US08293917B2
A solution of 5-bromomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (50 mg, 0.091 mmol) in DMF (2 mL) is treated with methylamine in THF (2.0 N solution, 49 μL, 0.091 mmol) and the resultant solution is heated in a microwave at 125° C. for 5 min. The crude reaction mixture is concentrated in vacuo and purified by preparative reverse phase HPLC (eluted with 10 to 90% CH3CN/H2O and 0.1% TFA as additive) to afford 5-aminomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide (20 mg, 44%).

reactant | 5-bromomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 0.091 mmol, 50 mg | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1CBr)C1=CC=C(C=C1)Cl)(F)F | C22H20BrClF3N3O
reactant | methylamine | CN | CH5N
reactant | THF | 0.091 mmol, 2.0 N, 49 μL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-aminomethyl-1-(4-chloro-phenyl)-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-butyl]-amide | 20 mg, 44% | FC(C=1C=C(C=CC1)[C@H](CCC)NC(=O)C=1C=NN(C1CN)C1=CC=C(C=C1)Cl)(F)F | C22H22ClF3N4O
